US07745452B2
To a solution of 1.5 g (3.987 mmol) N-[3,4-difluoro-2-(4-fluorobenzoyl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (open form) and 5,6-difluoro-4-(4-fluorophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one (closed form) in 8 ml THF was added 2.0 mL (19.933 mmol) triethylamine. After 1 h at 80° C., the reaction mixture was cooled to −78° C. To this solution was added 0.498 mL (4.186 mmol) thionyl chloride. After 30 minutes at −78° C., 5 mL (12.358 mmol) ethylmagnesium bromide (3.0M solution in diethyl ether) was added dropwise. After 1 h at −78° C., the reaction mixture was quenched with saturated NH4Cl and warmed to room temperature. The reaction mixture was extracted three times with EtOAc and washed with brine. The organic layer was dried over NaSO4, filtered and concentrated in vacuo. Purification by flash chromatography (1×14 cm silica gel, linear gradient 0-50% EtOAc:hexane) afforded 4-ethyl-5,6-difluoro-4-(4-fluorophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one. Chiral Separation (ChiralPak AD column, 5 cm×50 cm, 20μ, 10-40% ethanol/hexane, modifier: DEA 1 mL/L, 60 mins) afforded 350 mg of the second isomer.

reactant | N-[3,4-difluoro-2-(4-fluorobenzoyl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 3.987 mmol, 1.5 g | FC=1C(=C(C=CC1F)NC(=O)NCC(F)(F)F)C(C1=CC=C(C=C1)F)=O | C16H10F6N2O2
reactant | 5,6-difluoro-4-(4-fluorophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | FC1=C2C(N(C(NC2=CC=C1F)=O)CC(F)(F)F)(O)C1=CC=C(C=C1)F | C16H10F6N2O2
reactant | triethylamine | 19.933 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 4.186 mmol, 0.498 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethylmagnesium bromide | 12.358 mmol, 3.0M, 5 mL | C(C)[Mg]Br
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 4-ethyl-5,6-difluoro-4-(4-fluorophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | C(C)C1(N(C(NC2=CC=C(C(=C12)F)F)=O)CC(F)(F)F)C1=CC=C(C=C1)F | C18H14F6N2O
